US06872718B1
2,3-Dihydro-2,2,4,7-tetramethyl-5H-indol-5-one
To a solution of 65% potassium nitrosodisulfonate (10.4 g, 25.2 mmol) in pH 6.86 phosphate buffer (320 ml) was added a solution of 2,3-dihydro-2,2,4,7-tetramethyl-1H-indole (2.21 g, 12.6 mmol) in methanol (50 ml) and stirred at room temperature for 1.5 hours. The reaction mixture was extracted three times with toluene. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to a column chromatography on a silica gel (hexane:ethyl acetate=5:1) and recrystallized from ethyl acetate-hexane to obtain 1.71 g of the title compound.

reactant | potassium nitrosodisulfonate | 25.2 mmol, 10.4 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | 2,3-dihydro-2,2,4,7-tetramethyl-1H-indole | 12.6 mmol, 2.21 g | CC1(NC2=C(C=CC(=C2C1)C)C)C | C12H17N
solvent | phosphate | 320 ml, pH 6.86 | P(=O)([O-])([O-])[O-]
solvent | methanol | 50 ml | CO | CH4O
product | 2,3-Dihydro-2,2,4,7-tetramethyl-5H-indol-5-one | 1.71 g, Yield: 72% | CC1(N=C2C(=CC(C(=C2C1)C)=O)C)C | C12H15NO
